US07560558B2
5-Indanol (500 mg) was dissolved in dichloromethane (5 ml) to prepare a solution. Pyridine (439 mg) and acetyl chloride (349 mg) were added to the solution, and the mixture was stirred at room temperature for 6 hr. The solvent was removed by distillation under the reduced pressure, water was then added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using chloroform to give indan-5-yl acetate (599 mg, yield 92%).

reactant | 5-Indanol | 500 mg | C1CCC2=CC(=CC=C12)O | C9H10O
reactant | Pyridine | 439 mg | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 349 mg | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | indan-5-yl acetate | 599 mg, yield 92% | C(C)(=O)OC=1C=C2CCCC2=CC1 | C11H12O2
